.subckt input_mux_8to1 AVDD AVSS S\<2\> S\<1\> S\<0\> VIN\<7\> VIN\<6\> VIN\<5\> VIN\<4\> VIN\<3\> VIN\<2\> VIN\<1\> VIN\<0\> VO
XMN VIN\<0\> AVDD VO AVSS sky130_fd_pr__nfet_01v8 w=10 l=0.15 m=10 mult=10
XMP VIN\<0\> AVSS VO AVDD sky130_fd_pr__pfet_01v8 w=10 l=0.15 m=10 mult=10
.ends input_mux_8to1
